US05076834
Preparation of 1-(3,5-dichloro-4-methoxy-α,α-dimethylbenzylamino)-2-propanone
10.0 g (0.1 mol) of chloroacetone, 14.1 g (0.06 mol) of 3,5-dichloro-4-methoxy-α,α-dimethylbenzylamine and 7.2 g (0.07 mol) of triethylamine were dissolved in 100 ml of N,N-dimethylacetamide, and the mixture was heated at 80° C. for about three hours under stirring under a nitrogen atmosphere. The reaction solution was cooled, then poured into a large amount of water and extracted with ethyl acetate. The ethyl acetate layer was washed with water and then dried over anhydrous magensium sulfate. The solvent was distilled off under reduced pressure to obtain 9.5 g (yield: 89%) of the desired compound.

reactant | chloroacetone | 0.1 mol, 10.0 g | ClCC(C)=O | C3H5ClO
reactant | 3,5-dichloro-4-methoxy-α,α-dimethylbenzylamine | 0.06 mol, 14.1 g | ClC=1C=C(C(C)(C)N)C=C(C1OC)Cl | C10H13Cl2NO
reactant | triethylamine | 0.07 mol, 7.2 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | N,N-dimethylacetamide | 100 ml | CN(C(C)=O)C | C4H9NO
product | 1-(3,5-dichloro-4-methoxy-α,α-dimethylbenzylamino)-2-propanone | 9.5 g, yield: 89% | ClC=1C=C(C(C)(C)NCC(C)=O)C=C(C1OC)Cl | C13H17Cl2NO2
